US06914074B2
1-Chloro-6-(2,5-difluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(2,5-difluoro-4-hydroxyphenyl)-2-naphthol (500 mg, 1.84 mmol) and NCS (295 mg, 2.21 mmol) in THF (37 mL) according to method C to yield 370 mg (66%) of yellowish solid: mp 203-204° C.; 1H NMR (DMSO-d6): δ 6.90 (1H, dd, J=11.90 Hz, J=7.50 Hz), 7.32 (1H, d, J=8.88 Hz), 7.49 (1H, dd, J=11.87 Hz, J=7.60 Hz), 7.72-7.76 (1H, m), 7.84 (1H, d, J=8.97 Hz), 8.03 (1H, s), 8.06 (1H, d, 8.87 Hz), 10.58 (2H, s); MS (ESI) m/z3051307 (M−H)−; HRMS calcd for C16H9ClF2O2 306.02591, observed 305.01863 (M−H)−.

reactant | 6-(2,5-difluoro-4-hydroxyphenyl)-2-naphthol | 1.84 mmol, 500 mg | FC1=C(C=C(C(=C1)O)F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O2
reactant | NCS | 2.21 mmol, 295 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 37 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(2,5-difluoro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C(=C1)F)O)F)O | C16H9ClF2O2
